US06392059B1
Similarly to Referential example 4, 156.0 mg(0.35 mmol) of (2S,6R)-tert-butyl 2-[(E)-2-[(1R,3R,3aS,4S,4aR,8aS,9aR)-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan-4-yl]vinyl]-6-methyl-1-piperidinecarboxylate were reacted with 0.90 ml of Jones reagent to obtain 147.1 mg of (2S,6R)-tert-butyl 2-[(E)-2-[(3R,3aS,4S,4aR,8aS,9aR)-3-methyl-1-oxo-dodecahydronaphtho[2,3-c]furan-4-yl]vinyl]-6-methyl-1-piperidinecarboxylate, and then 1.00 ml of trifluoroacetic acid was reacted to obtain 113.0 mg of crude (3R,3aS,4S,4aR,8aS,9aR)-3-methyl-4-[(E)-2-[(2S,6R)-6-methylpiperidine-2-yl]vinyl]-3-methyl-decahydronaphtho[2,3-c]furan-1(3H)-one(yield after 2 processes 98%). Then, 0.30 ml of 37% formaldehyde solution and 47.1 mg (2.2 equivalents) of sodium cyanoboronhydride were reacted to obtain 100.8 mg of (3R,3aS,4S,4aR,8aS,9aR)-4-[(E)-2-[(2S,6R)-1.6-dimethylpiperidine-2-yl]vinyl]-3-methyl-decahydronaphtho[2,3-c]furan-1(3H)-one (ent-himbacine)(yield after 3 processes 84%).

reactant | (2S,6R)-tert-butyl 2-[(E)-2-[(1R,3R,3aS,4S,4aR,8aS,9aR)-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan-4-yl]vinyl]-6-methyl-1-piperidinecarboxylate | 0.35 mmol, 156.0 mg | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1C[C@@H]1CCCC[C@H]1[C@@H]2/C=C/[C@H]2N([C@@H](CCC2)C)C(=O)OC(C)(C)C)C | C27H45NO4
reactant | Jones reagent | 0.90 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
product | (2S,6R)-tert-butyl 2-[(E)-2-[(3R,3aS,4S,4aR,8aS,9aR)-3-methyl-1-oxo-dodecahydronaphtho[2,3-c]furan-4-yl]vinyl]-6-methyl-1-piperidinecarboxylate | 147.1 mg | C[C@@H]1[C@@H]2[C@H](C(O1)=O)C[C@@H]1CCCC[C@H]1[C@@H]2/C=C/[C@H]2N([C@@H](CCC2)C)C(=O)OC(C)(C)C | C26H41NO4
